US09120749B2
6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinoline-3-carbonitrile
Following general procedure D, 6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinoline-3-carbonitrile (28 mg, 0.075 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (32 mg, 0.113 mmol) to afford the desired product (11.9 mg, 35%) as a yellow solid. 1H NMR (500 MHz, MeOD) δ 8.46-8.40 (m, 2H), 8.02 (dd, J=8.7, 1.9 Hz, 1H), 7.86 (d, J=8.7 Hz, 1H), 7.42 (d, J=2.0 Hz, 1H), 7.29 (d, J=2.0 Hz, 1H), 4.48-4.38 (m, 1H), 3.99 (s, 3H), 2.50-2.39 (m, 1H), 2.35 (s, 6H), 2.29 (d, J=11.8 Hz, 2H), 2.06 (d, J=12.0 Hz, 2H), 1.73-1.61 (m, 2H), 1.59-1.47 (m, 2H). ESI MS m/z 451 [C25H27ClN4O2+H]+; HPLC 98.8% (AUC), tR=10.61 min.

reactant | 6-bromo-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinoline-3-carbonitrile | 0.075 mmol, 28 mg | BrC=1C=C2C(=C(C=NC2=CC1)C#N)N[C@@H]1CC[C@H](CC1)N(C)C | C18H21BrN4
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.113 mmol, 32 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
product | 6-(3-chloro-4-hydroxy-5-methoxyphenyl)-4-((trans-4-(dimethylamino)cyclohexyl)amino)quinoline-3-carbonitrile | 11.9 mg, 35% | ClC=1C=C(C=C(C1O)OC)C=1C=C2C(=C(C=NC2=CC1)C#N)N[C@@H]1CC[C@H](CC1)N(C)C | C25H27ClN4O2
